US07795249B2
To a solution of 4-benzyloxyaniline hydrochloride (34.5 mg, 0.146 mmol) in DCE (1 mL) was added a solution of DIPEA (0.0525 mL, 0.302 mmol) in DCE (0.5 mL) at rt. Upon cooling to −78° C., triphosgene (14.4 mg, 0.0487 mmol) in DCE (1.0 mL) was added and the reaction mixture was allowed to warm to rt and stir for 1 h. The reaction mixture was then heated at 60° C. for and 2 h. The solution was allowed to cool to rt and then cooled to −78° C. whereupon a solution of 2-(3-pyridin-3-yl-4,5-dihydro-1H-pyrazol-5-yl)phenol (35.0 mg, 0.146 mmol) in DMF (0.5 mL) was added. The reaction mixture was shaken at rt for 15 hours. The reaction was quenched with the addition of water (2 mL) and extracted with DCM. The organic solutions were combined, dried over anhydrous MgSO4, filtered, and concentrated. The residue was purified by RP-HPLC to give N-[2-(benzyloxy)phenyl]-5-(2-hydroxyphenyl)-3-pyridin-3-yl-4,5-dihydro-1H-pyrazole-1-carboxamide (19.20 mg, 28.2%). LCMS: (FA) ES+ 465.6, ES-463.2.

reactant | 4-benzyloxyaniline hydrochloride | 0.146 mmol, 34.5 mg | Cl.C(C1=CC=CC=C1)OC1=CC=C(N)C=C1
reactant | DIPEA | 0.302 mmol, 0.0525 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | triphosgene | 0.0487 mmol, 14.4 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 2-(3-pyridin-3-yl-4,5-dihydro-1H-pyrazol-5-yl)phenol | 0.146 mmol, 35.0 mg | N1=CC(=CC=C1)C1=NNC(C1)C1=C(C=CC=C1)O | C14H13N3O
solvent | DCE | 1 mL | ClCCCl | C2H4Cl2
solvent | DCE | 0.5 mL | ClCCCl | C2H4Cl2
solvent | DCE | 1.0 mL | ClCCCl | C2H4Cl2
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | N-[2-(benzyloxy)phenyl]-5-(2-hydroxyphenyl)-3-pyridin-3-yl-4,5-dihydro-1H-pyrazole-1-carboxamide | 19.20 mg, 28.2% | C(C1=CC=CC=C1)OC1=C(C=CC=C1)NC(=O)N1N=C(CC1C1=C(C=CC=C1)O)C=1C=NC=CC1 | C28H24N4O3
